* =============================================================
* TLV7011 Nanopower Comparator - Behavioral SPICE Model
* Texas Instruments
* =============================================================
* Propagation delay: 260 ns typical
* Quiescent current: 335 nA
* Supply: 1.6V to 5.5V
* Push-pull output
* No internal hysteresis
* =============================================================

.SUBCKT TLV7011 INP INN OUT VCC VEE
* INP = non-inverting input
* INN = inverting input
* OUT = push-pull output
* VCC = positive supply
* VEE = negative supply / ground

* High input impedance
Rinp INP 0 1T
Rinn INN 0 1T

* Comparator decision (ideal)
Bcomp comp_int 0 V = IF(V(INP)-V(INN) > 0, V(VCC), V(VEE))

* Propagation delay model: RC with tau = 260ns
Rdel comp_int del_out 1k
Cdel del_out 0 260p

* Output buffer
Eout OUT 0 del_out 0 1

* Quiescent current (335 nA from VCC to VEE)
Rq VCC VEE 9.85MEG

.ENDS TLV7011
